US06645999B1
(3S,7aR)-3-Phenyl-5,6,7,7a-tetrahydro-#1H-pyrrolo[1,2-c]oxazol-5-one was prepared in three steps from D-Pyroglutamic acid by a known procedure (Thottathil, J. K. et al. J. Org. Chem. 1986, 51, 3140) and was converted to (3S,7aR)-3-Phenyl-1H-pyrrolo[1,2-c]oxazol-5-one in two steps (selenylation and oxidative elimination) by the method reported by Hamada et al. (J. Am. Chem. Soc. 1989, 171, 1524). (3S,7aR)-3-Phenyl-1H-pyrrolo[1,2-c]oxazol-5-one was then converted to (3S,7S,7aS,1′S)-7a-(1′-acetoxy-2′-methylpropyl)-7-hydroxy-3-phenyl-5,6,7,7a-tetrahydro-1H-pyrrolo[1,2-c]oxazol-5-one in 6 steps by analogy to the sequence reported by Uno et al. (J. Am. Chem. Soc. 1994, 116, 2139). (3S,7S,7aS,1′S)-7a-(1′-acetoxy-2′-methylpropyl)-7-hydroxy-3-phenyl-5,6,7,7a-tetrahydro-1H-pyrrolo[1,2-c]oxazol-5-one (70 mg, 0.21 mmol) was dissolved in 1.0 mL pyridine and treated at room temperature with 32.0 mL acetic anhydride (0.34 mmol, 1.6 equiv.). The mixture was stirred at room temperature overnight and the solvent was removed in vacuo affording 77 mg of desired (3S,7S,7aS,1′S)-7a-(1′-acetoxy-2′-methylpropyl)-7-acetoxy-3-phenyl-5,6,7,7a-tetrahydro-1H-pyrrolo[1,2-c]oxazol-5-one (97%), a yellow oil which was used as such in the followingstep.

reactant | D-Pyroglutamic acid | N1[C@H](CCC1=O)C(=O)O | C5H7NO3
reactant | acetic anhydride | 0.34 mmol, 32.0 mL, 1.6 equiv. | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
product | 1H-pyrrolo[1,2-c]oxazol-5-one | C1C=2N(CO1)C(CC2)=O | C6H7NO2
